US07495007B2
Preparation of intermediate E/Z-6-Chloro-3-[5-chloro-2-(3-hydroxy-2,2-dimethyl-propoxy)-benzylidene]-1,3-dihydro-indol-2-one
5-Chloro-2-(3-hydroxy-2,2-dimethyl-propoxy)-benzaldehyde (2.4 g, 10 mmol) and 6-chloro-1,3-dihydro-indol-2-one (1.7 g, 10 mmol) were mixed in anhydrous methanol (20 mL). Then pyrrolidine (0.8 g, 11.2 mmol) was added slowly at r.t. The mixture was heated to 70° C. for 3 h and cooled to room temperature. Then the precipitate was collected by filtration to give title compound as yellow solid (Yield: 3.8 g).

reactant | 5-Chloro-2-(3-hydroxy-2,2-dimethyl-propoxy)-benzaldehyde | 10 mmol, 2.4 g | ClC=1C=CC(=C(C=O)C1)OCC(CO)(C)C | C12H15ClO3
reactant | 6-chloro-1,3-dihydro-indol-2-one | 10 mmol, 1.7 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | pyrrolidine | 11.2 mmol, 0.8 g | N1CCCC1 | C4H9N
solvent | methanol | 20 mL | CO | CH4O
product | Z-6-Chloro-3-[5-chloro-2-(3-hydroxy-2,2-dimethyl-propoxy)-benzylidene]-1,3-dihydro-indol-2-one | Yield: 3.8 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)OCC(CO)(C)C | C20H19Cl2NO3
